US04863925
2-[2-methyl-2,5-diaza-7,9-dithiabicyclo-(4,3,0)-nonane-8-ylidene]-5,5-dimethyl-1,3-cyclohexanedione dihydrochloride salt. (compound 118)
Into a solution of 1.0 g (0.0032 mole) of 2-[2-methyl-2,5-diaza-7,9-dithiabicyclo-(4.3.0)-nonane-8-yliden]-5,5-dimethyl-1,3-cyclohexanedione i 20 ml of acetone was bubbled dry hydrogen chloride with ice-cooling. After the crystalline was precipitated, to this solution was added 20 ml of ether to crystalize further the product dissolved in acetone.

reactant | 2-[2-methyl-2,5-diaza-7,9-dithiabicyclo-(4.3.0)-nonane-8-yliden]-5,5-dimethyl-1,3-cyclohexanedione | 0.0032 mole, 1.0 g | CN1C2SC(SC2NCC1)=C1C(CC(CC1=O)(C)C)=O | C14H20N2O2S2
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-[2-methyl-2,5-diaza-7,9-dithiabicyclo-(4,3,0)-nonane-8-ylidene]-5,5-dimethyl-1,3-cyclohexanedione dihydrochloride salt | Cl.Cl.CN1C2SC(SC2NCC1)=C1C(CC(CC1=O)(C)C)=O | InChI=1S/C14H20N2O2S2.2ClH/c1-14(2)6-8(17)10(9(18)7-14)13-19-11-12(20-13)16(3)5-4-15-11;;/h11-12,15H,4-7H2,1-3H3;2*1H
